US04902835
1.0 g (4.5 mmol) of 4-bromo-1-methoxy-1,1,2-trifluoro-2-butene was treated with ethylmagnesium bromide (3M, 1.6 mL, 4.8 mmol) in diethyl ether according to the same procedure as Example 4 to give 0.29 g (48%) of methyl (Z)-2-fluoro-2-hexenoate. 1H-NMR (300 MHz, CDCl3): δ 0.92(3H, t), 1.46(2H, q), 2.20(2H, dq, J=2, 8 Hz), 3.80(3H, a), 6.11(1H, dt, J=8, 33Hz).

reactant | 4-bromo-1-methoxy-1,1,2-trifluoro-2-butene | 4.5 mmol, 1.0 g | BrCC=C(C(F)(F)OC)F | C5H6BrF3O
reactant | ethylmagnesium bromide | 4.8 mmol, 3M, 1.6 mL | C(C)[Mg]Br
reactant | diethyl ether | C(C)OCC | C4H10O
product | methyl (Z)-2-fluoro-2-hexenoate | 0.29 g, 48% | F\C(\C(=O)OC)=C/CCC | C7H11FO2
